US04180475
74.2 G. of 2-(4-n-butylphenyl)-3-ethoxy-acrolein, 77.8 g. of the 4-amidinobenzoic acid amide hydrochloride described earlier and 0.546 mol of sodium methylate (obtained by dissolving 12.55 g. of sodium metal in methanol) are suspended in 2500 ml. of methanol and stirred overnight at room temperature under an atmosphere of nitrogen. The yellow suspension is subsequently removed by filtration, washed with a small amount of ethanol and suspended in 4 liters of ether for further purification. The suspension is washed with water and then filtered again. Sparingly soluble 4-[5-(4-n-butylphenyl)-2-pyrimidinyl] benzoic acid amide is obtained.

reactant | 2-(4-n-butylphenyl)-3-ethoxy-acrolein | C(CCC)C1=CC=C(C=C1)C(C=O)=COCC | C15H20O2
reactant | 4-amidinobenzoic acid amide hydrochloride | Cl.C(N)(=N)C1=CC=C(C(=O)N)C=C1
reactant | sodium methylate | 0.546 mol, 12.55 g | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 4-[5-(4-n-butylphenyl)-2-pyrimidinyl] benzoic acid amide | C(CCC)C1=CC=C(C=C1)C=1C=NC(=NC1)C1=CC=C(C(=O)N)C=C1 | C21H21N3O
